US07842694B2
Methyl 3-hydroxy-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate
Methyl 3-[(phenylmethyl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate (25.0 g, 76.2 mmol) was dissolved in THF (150 mL) and ethanol (150 mL). 10% Palladium on carbon (30 mg) was added and the mixture placed under a hydrogen atmosphere and left to stir at RT until the reaction was complete. The catalyst was removed by filtration through diatomaceous earth and the filtrate was concentrated in vacuo to give an orange oil which crystallised on standing. The solid was filtered off and washed with diethyl ether to give the desired product as a white solid (13.75 g).

reactant | Methyl 3-[(phenylmethyl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate | 76.2 mmol, 25.0 g | C1(=CC=CC=C1)COC=1C=C(C(=O)OC)C=C(C1)O[C@@H]1COCC1 | C19H20O5
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | 30 mg | [Pd] | Pd
product | Methyl 3-hydroxy-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate | 13.75 g | OC=1C=C(C(=O)OC)C=C(C1)O[C@@H]1COCC1 | C12H14O5
